US07713973B2
3-(3-Bromo-benzyl)-imidazolidine-2-one
3-Bromobenzyl bromide (1.0 g, 4.0 mmol) was added to a solution of 2-imidazolidone (1.03 g, 12.0 mmol) and potassium carbonate (1.66 g, 12.0 mmol) in 2-propanol (10 mL), and the reaction stirred at reflux for 40 h. The cooled solution was partitioned between EtOAc and water. Organics were washed with brine, dried (MgSO4) and concentrated in vacuo. Purification by silica gel chromatography (100% EtOAc) gave 446 mg (44%) of the title compound as a white solid. 1H NMR (400 MHz, MeOD-d4) δ 7.40-7.48 (m, 2H), 7.21-7.28 (m, 2H), 4.30 (s, 2H), 3.29-3.41 (m, 4H). [M+H] calc'd for C10H11BrN2O, 255, 257; found, 255, 257.

reactant | 3-Bromobenzyl bromide | 4.0 mmol, 1.0 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | 2-imidazolidone | 12.0 mmol, 1.03 g | N1C(NCC1)=O | C3H6N2O
reactant | potassium carbonate | 12.0 mmol, 1.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
product | 3-(3-Bromo-benzyl)-imidazolidine-2-one | 446 mg, 44% | BrC=1C=C(CN2C(NCC2)=O)C=CC1 | C10H11BrN2O
